US08791142B2
Step 1) 5-bromo-2-(2-methylpyrrolidin-1-yl)benzaldehyde
To a solution of 5-bromo-2-fluorobenzaldehyde (15 g, 73.8 mmol) in DMSO (150 mL) and water (40 mL) were added 2-methylpyrrolidine (9.8 mL, 96 mmol) and sodium carbonate (15.7 g, 148 mmol). The resulting mixture was heated at 110° C. for 8 hours. The reaction mixture was cooled at RT, diluted with water (1000 mL) and extracted with MTBE (2×100 mL). The organic layers were combined, dried (Na2SO4) and concentrated under reduced pressure. After purification by flash chromatography (silica, pet ether/EtOAc), the title compound was obtained as a yellow oil (17 g, 85%). 1H NMR (DMSO-d6, 400 MHz) δ 9.94 (1H, s), 7.75 (1H, s), 7.51 (1H, d), 6.93 (1H, d), 3.92 (1H, m), 3.68 (1H, m), 2.97 (1H, t), 2.49-2.18 (1H, m), 1.88 (1H, m), 1.57-1.68 (2H, m), 1.10 (3H, d).

reactant | 5-bromo-2-fluorobenzaldehyde | 73.8 mmol, 15 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | 2-methylpyrrolidine | 96 mmol, 9.8 mL | CC1NCCC1 | C5H11N
reactant | sodium carbonate | 148 mmol, 15.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | water | 40 mL | O | H2O
solvent | water | 1000 mL | O | H2O
product | 5-bromo-2-(2-methylpyrrolidin-1-yl)benzaldehyde | BrC=1C=CC(=C(C=O)C1)N1C(CCC1)C | C12H14BrNO
